US06599942B1
A suspension of sodium NaH (60% dispersion in mineral oil; 1.32 g, 33 mmol) in 50 mL of NMP is cooled to 0° C. and 2,5-dihydroxybenzoic acid (1.54 g, 10 mmol) is added in one portion. The mixture is warmed to room temperature, and after 30 min, 4-chloro-3,5-dimethylnitrobenzene (2.41 g, 13 mmol) is added in one portion and the reaction is heated at 120° C. for 3 h. The reaction is cooled to RT and 2-methoxyethoxymethyl chloride (2.85 mL, 25 mmol) is added. After stirring for 30 min, the mixture is poured onto water and the product is taken up in Et2O. The organic solution is washed with brine, dried over anhydrous Na2SO4 and concentrated. Chromatography on silica (eluant; EtOAc/hexane-1/2→3/2) affords 5-(2,6-dimethyl-4-nitrophenoxy)-2-(2-methoxyethoxymethoxy)benzoic acid 2-methoxyethoxymethyl ester: NMR (CDCl3) 2.23 (s, 6H), 3.36 (s, 3H), 3.38 (s, 3H), 3.54-3.60 (m, 4H), 3.80-3.90 (m, 4H), 5.28 (s, 2H), 5.52 (s, 2H), 6.82 (dd, 1H, J=9,3), 7.17-7.23 (m, 2H), 8.02 (s, 2H).

reactant | sodium NaH | 33 mmol, 1.32 g | [Na].[H-].[Na+]
reactant | 2,5-dihydroxybenzoic acid | 10 mmol, 1.54 g | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | 4-chloro-3,5-dimethylnitrobenzene | 13 mmol, 2.41 g | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8ClNO2
reactant | 2-methoxyethoxymethyl chloride | 25 mmol, 2.85 mL | COCCOCCl | C4H9ClO2
solvent | NMP | 50 mL | CN1CCCC1=O | C5H9NO
solvent | Et2O | CCOCC | C4H10O
product | 5-(2,6-dimethyl-4-nitrophenoxy)-2-(2-methoxyethoxymethoxy)benzoic acid 2-methoxyethoxymethyl ester | COCCOCOC(C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OCOCCOC)=O | C23H29NO10
